US04008258
Under nitrogen, to a stirred solution of 3.42 g. of 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoic acid (mostly trans, trans) in dry benzene, is added 3.5 ml. of oxalyl chloride. The reaction mixture is stirred for 2 hours at room temperature and then solvent and any excess oxalyl chloride are removed in vacuo. Then about 130 ml. of fresh dry benzene is added followed by 4.46 of cyclopropylmethyl alcohol and the reaction mixture stirred, under nitrogen, overnight. The reaction is worked up by pouring into water, washing with brine, drying over calcium sulfate, removing solvent in vacuo and stirring the concentrate in pentane with neutral alumina. Pentane is removed to yield cyclopropylmethyl-11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate which is purified by distillation to give a product having a boiling point of 90° (bath) at 0.01 mm.

reactant | 11-methoxy-3,7,11-trimethyldodeca-2,4-dienoic acid | COC(CCCC(CC=CC(=CC(=O)O)C)C)(C)C | C16H28O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cyclopropylmethyl-11-methoxy-3,7,11-trimethyldodeca-2,4-dienoate | C1(CC1)COC(C=C(C=CCC(CCCC(C)(C)OC)C)C)=O | C20H34O3
